US08222414B2
Step A: 7-Nitro-1H-indole-2-carboxylic acid
Commercially available ethyl 7-nitroindole-2-carboxylate (500 mg, 2.14 mmol) was dissolved in a solvent mixture of tetrahydrofuran and water (1:1, 20 mL). Lithium hydroxide hydrate (448 mg, 10.7 mmol) was added thereto, and the mixture was stirred for 8 h at room temperature. 1N-hydrochloric acid solution was added, and the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and filtered. The filtrate was distilled under reduced pressure to give the title compound.

reactant | ethyl 7-nitroindole-2-carboxylate | 2.14 mmol, 500 mg | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(=O)OCC | C11H10N2O4
reactant | Lithium hydroxide hydrate | 10.7 mmol, 448 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 7-Nitro-1H-indole-2-carboxylic acid | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(=O)O | C9H6N2O4
